US09328111B2
To the solution of 2-bromo-5-fluoro-3-nitrobenzoic acid (35 g) in MeOH (400 mL) was added SOCl2 (40 mL) drop-wise at 10-15° C. The reaction was then stirred at 65° C. for 1 h. After cooling to room temperature, the solvent was evaporated in vacuum to afford a residue, which was chromatographed on silica gel using gradient eluant of 0-100% EtOAc in hexane to provide methyl 2-bromo-5-fluoro-3-nitrobenzoate (20 g, 84%).

reactant | 2-bromo-5-fluoro-3-nitrobenzoic acid | 35 g | BrC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])F | C7H3BrFNO4
reactant | SOCl2 | 40 mL | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 400 mL | CO | CH4O
product | methyl 2-bromo-5-fluoro-3-nitrobenzoate | 20 g, 84% | BrC1=C(C(=O)OC)C=C(C=C1[N+](=O)[O-])F | C8H5BrFNO4
